US05017212
2-Ethylthio-5,7-dimethylpyrazolo[1,5-a]pyrimidine
60% oily sodium hydride (2.0 g) is suspended in 20 ml of dimethylformamide. A solution of 3.7 ml of ethylmercaptan dissolved in 10 ml of dimethylformamide under ice cooling is added to the suspension below 10° C. and stirred for 30 minutes at room temperature. 2-Chloro-5,7-dimethylpyrazolo [1,5-a]pyrimidine (6.6 g) is added to the mixture and stirred for 5 hours at 80°-90° C. After cooling, the reaction solution is poured into ice water and extracted with toluene. The extract is washed with water and then distilled to remove the solvent. The residue is purified by silica gel chromatography (eluent: dichloromethane) to give 4.0 g of the title compound as an oil.

reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | ethylmercaptan | 3.7 ml | C(C)S | C2H6S
reactant | 2-Chloro-5,7-dimethylpyrazolo [1,5-a]pyrimidine | 6.6 g | ClC1=NN2C(N=C(C=C2C)C)=C1 | C8H8ClN3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Ethylthio-5,7-dimethylpyrazolo[1,5-a]pyrimidine | 4.0 g | C(C)SC1=NN2C(N=C(C=C2C)C)=C1 | C10H13N3S
